US07781478B2
2-(4-Aminophenylethynyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (50 mg, 0.16 mmol), prepared as described by the method of Example 1H, is dissolved in pyridine (550 μL) at room temperature. Methanesulfonyl chloride (17 μL, 0.21 mmol) is added dropwise. This is stirred overnight at room temperature. The reaction mixture is then diluted in ethyl acetate and is washed with aqueous HCl, followed by brine. The organic layer is dried and concentrated. Purification by silica gel chromatography (9/1, CH2Cl2/EtOAc) yields N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-ylethynyl)-phenyl]-methanesulfonamide (58 mg, 92%) as an off-white solid.

reactant | 2-(4-Aminophenylethynyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.16 mmol, 50 mg | NC1=CC=C(C=C1)C#CC=1N(C2=CC(=CC=C2C1C#N)OC)CC | C20H17N3O
reactant | Methanesulfonyl chloride | 0.21 mmol, 17 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 550 μL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-ylethynyl)-phenyl]-methanesulfonamide | 58 mg, 92% | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C#CC1=CC=C(C=C1)NS(=O)(=O)C | C21H19N3O3S
